US04816604
2-{2-hydroxy-3-[2-(4-methoxyphenoxy)ethylamino]-propoxy}-5-(2-methoxyethoxy)benzonitrile
2.4 g of 2-(2,3-epoxypropoxy)-5-(2-methoxyethoxy)-benzonitrile and 8.35 g of 2-(4-methoxyphenoxy)ethylamine are dissolved in 30 ml of ethanol, the solvent is then evaporated and the resulting mixture stirred for 1 hour at 70°. The reaction melt is then dissolved in ether and allowed to crystallize under cooling. Purification is effected by recrystallization in benzene. The title compound is obtained (M.P. 95°-97°).

reactant | 2-(2,3-epoxypropoxy)-5-(2-methoxyethoxy)-benzonitrile | 2.4 g | O1C(COC2=C(C#N)C=C(C=C2)OCCOC)C1 | C13H15NO4
reactant | 2-(4-methoxyphenoxy)ethylamine | 8.35 g | COC1=CC=C(OCCN)C=C1 | C9H13NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-{2-hydroxy-3-[2-(4-methoxyphenoxy)ethylamino]-propoxy}-5-(2-methoxyethoxy)benzonitrile | OC(COC1=C(C#N)C=C(C=C1)OCCOC)CNCCOC1=CC=C(C=C1)OC | C22H28N2O6
